US04055570
1,3-bis-(4'-methoxycarbonylphenylmethyl)- 2,2-dimethylimidazolidine-4,5-dione
In a 4-necked flask, equipped with stirrer, reflux cooler, thermometer and drip funnel, a solution of 110.8 g (0.6 mole) of p-chloromethylbenzoic acid methyl ester in 150 ml of hexamethylphosphoric triamide is added dropwise, with stirring, at 25° C to a solution (prepared at 5°-10° C) of 38.4 g (0.3 mole) of 2,2-dimethylimidazolidine-4,5-dione and 32.4 g (0.6 mole) of sodium methylate in 225 ml of anhydrous methanol and 225 ml of hexamethylphosphoric triamide.

reactant | p-chloromethylbenzoic acid methyl ester | 0.6 mole, 110.8 g | COC(C1=CC=C(C=C1)CCl)=O | C9H9ClO2
reactant | 2,2-dimethylimidazolidine-4,5-dione | 0.3 mole, 38.4 g | CC1(NC(C(N1)=O)=O)C | C5H8N2O2
reactant | sodium methylate | 0.6 mole, 32.4 g | C[O-].[Na+]
reactant | methanol | 225 ml | CO | CH4O
solvent | hexamethylphosphoric triamide | 150 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric triamide | 225 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 1,3-bis-(4'-methoxycarbonylphenylmethyl)- 2,2-dimethylimidazolidine-4,5-dione | COC(=O)C1=CC=C(C=C1)CN1C(N(C(C1=O)=O)CC1=CC=C(C=C1)C(=O)OC)(C)C | C23H24N2O6
